US07923450B2
b) 6-[1-Dimethylamino-methylidene]-2-(3-methoxy-phenyl)-2-propyl-cyclohexanone
2-(3-Methoxy-phenyl)-2-propyl-cyclohexanone (101 mg, 0.41 mmol) was reacted with tert.-butoxy-bis-(dimethylamino)-methane using in analogous manner the procedure described in example 45a) to give crude title compound (124 mg) as red oil which was used directly in the next step. MS ISP (m/e): 302.1 [(M+H)+].

reactant | 2-(3-Methoxy-phenyl)-2-propyl-cyclohexanone | 0.41 mmol, 101 mg | COC=1C=C(C=CC1)C1(C(CCCC1)=O)CCC | C16H22O2
reactant | tert.-butoxy-bis-(dimethylamino)-methane | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 6-[1-Dimethylamino-methylidene]-2-(3-methoxy-phenyl)-2-propyl-cyclohexanone | 124 mg | CN(C=C1CCCC(C1=O)(CCC)C1=CC(=CC=C1)OC)C | C19H27NO2
